US04051153
A mixture of 1 g. (3.7 mmoles) of (2R,6R)-(+)-1-tert. butoxy-2,6,10-trimethylundecane and 10 ml. of 48% aqueous HBr was stirred and heated at reflux for 5.75 hours. The resulting mixture was cooled and worked up by ether extraction in the manner of Example 1 giving 0.9 g. of crude product. This material was chromatographed on 30 g. of silica gel. Elution with 49:1 parts by volume hexane-ether gave the (2R,6R)-(-)-1-bromo-2,6,10-trimethylundecane which was evaporatively distilled yielding 0.748 g. (73.4%) of a colorless oil, b.p. 83°-85° C. (bath temperature) (0.15 mm Hg).

reactant | (2R,6R)-(+)-1-tert. butoxy-2,6,10-trimethylundecane | 3.7 mmoles | C(C)(C)(C)OC[C@@H](CCC[C@@H](CCCC(C)C)C)C | C18H38O
reactant | HBr | Br | BrH
product | (2R,6R)-(-)-1-bromo-2,6,10-trimethylundecane | BrC[C@@H](CCC[C@@H](CCCC(C)C)C)C | C14H29Br
